US07365197B2
To a suspension of 0.1 g (0.267 mmol) of 4-chloro-7-methoxy-8-(2-morpholin-4-yl-ethoxy)benzo[g]quinazoline in 3 mL of isopropanol is added 0.055 g (0.321 mmol) of 3-bromoaniline and 0.031 g (0.267 mmol) of pyridine hydrochloride. The mixture is brought to reflux for 15 minutes, then allowed to cool to room temperature. A yellow precipitate forms, which is filtered and washed with cold ethanol. Drying in vacuo provided 0.131 g of (3-bromophenyl)-[7-methoxy-8-(2-morpholin-4-yl-ethoxy)benzo[g]quinazolin-4-yl]-amine dihydrochloride as a yellow solid, mp 266-269° C.

reactant | 4-chloro-7-methoxy-8-(2-morpholin-4-yl-ethoxy)benzo[g]quinazoline | 0.267 mmol, 0.1 g | ClC1=NC=NC2=CC3=C(C=C12)C=C(C(=C3)OCCN3CCOCC3)OC | C19H20ClN3O3
reactant | 3-bromoaniline | 0.321 mmol, 0.055 g | BrC=1C=C(N)C=CC1 | C6H6BrN
reactant | pyridine hydrochloride | 0.267 mmol, 0.031 g | Cl.N1=CC=CC=C1
solvent | isopropanol | 3 mL | C(C)(C)O | C3H8O
product | (3-bromophenyl)-[7-methoxy-8-(2-morpholin-4-yl-ethoxy)benzo[g]quinazolin-4-yl]-amine dihydrochloride | 0.131 g | Cl.Cl.BrC=1C=C(C=CC1)NC1=NC=NC2=CC3=C(C=C12)C=C(C(=C3)OCCN3CCOCC3)OC | InChI=1S/C25H25BrN4O3.2ClH/c1-31-23-13-17-11-21-22(27-16-28-25(21)29-20-4-2-3-19(26)15-20)12-18(17)14-24(23)33-10-7-30-5-8-32-9-6-30;;/h2-4,11-16H,5-10H2,1H3,(H,27,28,29);2*1H
